US06521754B2
N-(7-Ethyl-4-methoxy-benzothiazol-2-yl)-4-fluoro-benzamide
100 mg of 4-fluoro-N-(4-methoxy-7-vinyl-benzothiazol-2-yl)-benzamide (0.3 mmol) were dissolved in methanol (100 ml) and Pd/C (4 mg) were added. The reaction mixture was hydrogenated for 2 hrs. After filtering and evaporation of the solvent the crude product was subjected to column chromatography (silica gel, eluent MeOH/CH2Cl2 1:9). The title compound was obtained in form of white crystals (79 %); F.p.: 165-167° C.

reactant | 4-fluoro-N-(4-methoxy-7-vinyl-benzothiazol-2-yl)-benzamide | 0.3 mmol, 100 mg | FC1=CC=C(C(=O)NC=2SC3=C(N2)C(=CC=C3C=C)OC)C=C1 | C17H13FN2O2S
solvent | methanol | 100 ml | CO | CH4O
catalyst | Pd/C | 4 mg | [Pd] | Pd
product | N-(7-Ethyl-4-methoxy-benzothiazol-2-yl)-4-fluoro-benzamide | C(C)C1=CC=C(C=2N=C(SC21)NC(C2=CC=C(C=C2)F)=O)OC | C17H15FN2O2S
